US07115639B2
tert-butyl 4-{5-[(2S,4EZ)-1-([1,1′-biphenyl]-4-ylcarbonyl)-4-(methoxyimino)pyrrolidinyl]-1,2,4-oxadiazol-3-yl}-1-piperidinecarboxylate) (100 mg, 1.80 mmol) was treated with a 25% TFA/DCM solution at 0° C. for 1 hour. The reaction was then made basic with a sodium carbonate solution (10%) and extracted with DCM. The organic phases were combined and dried over magnesium sulfate and solvent removal afforded a residue which was purified by flash-chromatography using cyclohexane/ethylacetate (2/8) as eluent to give (3EZ,5S)-1-([1,1′-biphenyl]-4-ylcarbonyl)-5-[3-(4-piperidinyl)-1,2,4-oxadiazol-5-yl]-3-pyrrolidinone O-methyloxime as a mixture of E-/Z-isomers in 80% yield (96.1% purity by HPLC).

reactant | tert-butyl 4-{5-[(2S,4EZ)-1-([1,1′-biphenyl]-4-ylcarbonyl)-4-(methoxyimino)pyrrolidinyl]-1,2,4-oxadiazol-3-yl}-1-piperidinecarboxylate | C1(=CC=C(C=C1)C(=O)N1[C@@H](CC(C1)=NOC)C1=NC(=NO1)C1CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C30H35N5O5
reactant | TFA DCM | C(=O)(C(F)(F)F)O.C(Cl)Cl
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | (3EZ,5S)-1-([1,1′-biphenyl]-4-ylcarbonyl)-5-[3-(4-piperidinyl)-1,2,4-oxadiazol-5-yl]-3-pyrrolidinone O-methyloxime | 80% yield | CON=C1CN([C@@H](C1)C1=NC(=NO1)C1CCNCC1)C(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C25H27N5O3
